US07294632B2
1′-(2-Oxo-2-phenylethyl)-8′-pyridin-4-yl-3′,4′-dihydrospiro[cyclopropane-1,2′-pyrimido[1,2-a]pyrimidin]-6′(1′H)-one (1:1) (hydrochloride)
0.31 g (0.83 mmol) of 1′-[(2S)-2-hydroxy-2-phenylethyl]-8′-pyridin-4-yl-3′,4′-dihydrospiro[cyclopropane-1,2′-pyrimido[1,2-a]pyrimidin]-6′(1′H)-one was dissolved in 8 ml of anhydrous dichloromethane and mixed with 0.145 g (1.24 mmol) of N-methylmorpholine N-oxide, 0.003 g (0.0083 mmol) of tetra-n-propylammonium perruthenate and 1 g of powdered molecular sieves (4A). The mixture was stirred at 20° C. under nitrogen atmosphere for 12 h. The mixture was filtered. The filtrate was washed with a saturated aqueous solution of ammonium chloride, dried and evaporated to give crude product. Purification by chromatography on silica gel eluting with a mixture of dichloromethane/methanol in the proportions 100/0 to 95/5 gave the compound in the form of free base which was transformed into its hydrochloride salt to give 0.078 g of pure product.

reactant | 1′-[(2S)-2-hydroxy-2-phenylethyl]-8′-pyridin-4-yl-3′,4′-dihydrospiro[cyclopropane-1,2′-pyrimido[1,2-a]pyrimidin]-6′(1′H)-one | 0.83 mmol, 0.31 g | O[C@H](CN1C=2N(CCC13CC3)C(C=C(N2)C2=CC=NC=C2)=O)C2=CC=CC=C2 | C22H22N4O2
reactant | N-methylmorpholine N-oxide | 1.24 mmol, 0.145 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
catalyst | tetra-n-propylammonium perruthenate | 0.0083 mmol, 0.003 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 1′-(2-Oxo-2-phenylethyl)-8′-pyridin-4-yl-3′,4′-dihydrospiro[cyclopropane-1,2′-pyrimido[1,2-a]pyrimidin]-6′(1′H)-one | 0.078 g | O=C(CN1C=2N(CCC13CC3)C(C=C(N2)C2=CC=NC=C2)=O)C2=CC=CC=C2 | C22H20N4O2
